US08022222B2
Using the method of Example 3, Step B, 4-methylthiazol-2-amine (9.20 mL, 3.68 mmol), 4-(3-(tert-butyldimethylsilyloxy)phenylthio)-2-chloropyridine (1.42 g, 4.05 mmol), potassium phosphate (0.859 g, 4.05 mmol), tris(dibenzylideneacetone)-dipalladium (0) (0.0842 g, 0.0920 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.0585 g, 0.101 mmol) were reacted in toluene (10 mL) and water (3 mL) to afford N-(4-(3-(tert-butyldimethylsilyloxy)phenylthio)pyridin-2-yl)-4-methylthiazol-2-amine (0.500 g, 28.5% yield) as yellow solid. 1H NMR (CDCl3) δ 8.08 (d, 1H), 7.27 (t, 1H), 7.12 (dt, 1H), 7.00 (t, 1H), 6.90 (m, 1H), 6.56 (dd, 1H), 6.47 (d, 1H), 6.32 (d, 1H), 2.23 (d, 3H), 0.96 (s, 9H), 0.18 (s, 6H).

reactant | 4-methylthiazol-2-amine | 3.68 mmol, 9.20 mL | CC=1N=C(SC1)N | C4H6N2S
reactant | 4-(3-(tert-butyldimethylsilyloxy)phenylthio)-2-chloropyridine | 4.05 mmol, 1.42 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)SC1=CC(=NC=C1)Cl | C17H22ClNOSSi
reactant | potassium phosphate | 4.05 mmol, 0.859 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 3 mL | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)-dipalladium (0) | 0.0920 mmol, 0.0842 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.101 mmol, 0.0585 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | N-(4-(3-(tert-butyldimethylsilyloxy)phenylthio)pyridin-2-yl)-4-methylthiazol-2-amine | 0.500 g, 28.5% yield | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)SC1=CC(=NC=C1)NC=1SC=C(N1)C | C21H27N3OS2Si
